US05153226
A solution of α-bromophenylacetic acid (19.3 g, 89.7 mmol) in thionylchloride (100 mL) was refluxed (2 hours), cooled (25° C.), and stirred (25° C., 14 hours). The resulting solution was concentrated in vacuo, diluted with ether, and concentrated again to yield 21.0 g (100%) of α-bromophenylacetylchloride as a slightly yellow oil which was used without further purification.

reactant | α-bromophenylacetic acid | 89.7 mmol, 19.3 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | thionylchloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
product | α-bromophenylacetylchloride | 21.0 g, 100% | BrC(C(=O)Cl)C1=CC=CC=C1 | C8H6BrClO
